US07589200B2
In like manner to the preparartion of N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(4-n-butyloxyphenyl)-5-fluoro-4-pyrimidineamine with 3,4-ethylenedioxyaniline gave N4-(4-n-butyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine. The crude product was purified by chromatography (2:1 CHCl3/EtOAc); (0.17 g, 52%) as a tan solid: Rf 0.51 (4:1 CHCl3/EtOAc); mp 149.6–151.4° C. (DSC); 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=3.4 Hz, 1H), 7.47 (d, J=8.8 Hz, 2H), 7.18 (d, J=2.4 Hz, 1H), 6.91–6.86 (m, 3H), 6.78–6.75 (m, 2H), 6.62 (bs, 1H), 4.26–4.22 (m, 4H), 3.96 (t, J=6.5, 2H), 1.82–1.73 (m, 2H), 1.56–1.44 (m, 2H), 0.98 (t, J=7.4 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 156.1, 150.8, 143.6, 142.8, 140.2, 139.9, 139.5, 139.2, 133.9, 130.7, 123.1, 117.1, 115.0, 113.5, 109.4, 68.2, 64.6, 31.6, 19.4, 14.0; IR (ATR) 3365 cm−1; ESI MS m/z 411 [C22H23FN4O3+H]+; HPLC (Method A) 99.0% (AUC), tR=13.2 min. Anal. Calcd for C22H23FN4O3: C, 64.38; H, 5.65; N, 13.65. Found: C, 63.63; H, 5.60; N, 13.38.

reactant | N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C20H19FN4O3
reactant | 2-chloro-N4-(4-n-butyloxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCCCC)F | C14H15ClFN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N4-(4-n-butyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine | C(CCC)OC1=CC=C(C=C1)NC1=CC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C23H24FN3O3
